US09216968B2
Methyl 5-bromo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-indazole-7-carboxylate
Under argon atmosphere, a solution of methyl 5-bromo-1H-indazole-7-carboxylate (as prepared according to WO2008/65508) (658 mg) in DMF (20 mL) was stirred under ice-cooling. 60% Sodium hydride (124 mg) was added slowly, and the mixture was stirred for 30 minutes at the same temperature. 2-(Trimethylsilyl)ethoxymethyl chloride (544 μL) was added dropwise slowly using a syringe, and the mixture was stirred at room temperature for 4 hours. The mixture was poured into ice water and extracted with ethyl acetate. The ethyl acetate layer was washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The residue was purified on silica gel column chromatography to obtain the titled compound (696 mg) as slightly yellow oil.

reactant | methyl 5-bromo-1H-indazole-7-carboxylate | 658 mg | BrC=1C=C2C=NNC2=C(C1)C(=O)OC | C9H7BrN2O2
reactant | Sodium hydride | 124 mg | [H-].[Na+]
reactant | 2-(Trimethylsilyl)ethoxymethyl chloride | 544 μL | C[Si](CCOCCl)(C)C | C6H15ClOSi
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | Methyl 5-bromo-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-indazole-7-carboxylate | 696 mg | BrC=1C=C2C=NN(C2=C(C1)C(=O)OC)COCC[Si](C)(C)C | C15H21BrN2O3Si
